US09382238B2
To a mixture of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (15 mg, 0.036 mmol) in pyridine (3 mL) were added 3-(1H-pyrazol-4-yl)-5-(trifluoromethyl)aniline (8.28 mg, 0.036 mmol) and T3P® (EA solvate) (0.5 mL, 0.036 mmol). The mixture was stirred at 25° C. for 1 h. The mixture was added to water and concentrated to afford N-(3-(1H-pyrazol-4-yl)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (50 mg, 0.024 mmol, 66.3% yield). TLC (DCM/MeOH=15:1, Rf=0.5): 1H NMR (400 MHz, CD3OD) δ 8.02 (s, 1H), 7.82 (s, 1H), 7.58 (s, 1H), 7.37 (s, 2H), 7.32-7.30 (m, 4H), 7.25-7.23 (m, 2H), 6.89-6.86 (m, 3H), 5.36 (s, 2H), 4.15-4.09 (m, 2H), 3.83 (s, 2H), 3.77 (s, 3H), 1.46 (t, J=6.8 Hz, 3H). ES-LCMS m/z 621.2 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.036 mmol, 15 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 3-(1H-pyrazol-4-yl)-5-(trifluoromethyl)aniline | 0.036 mmol, 8.28 mg | N1N=CC(=C1)C=1C=C(N)C=C(C1)C(F)(F)F | C10H8F3N3
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | EA | CC(OCC)=O | C4H8O2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-(3-(1H-pyrazol-4-yl)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.024 mmol, 50 mg, 66.3% yield | N1N=CC(=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O | C33H28F4N4O4
